US07601714B2
2-Chloro-3-dimethylamino-benzoic acid methyl ester (0.85 g, 3.98 mmol) was placed in a round bottomed flask with tetrahydrofuran (50 mL) and cooled to 0° C. Lithium aluminum hydride (0.30 g, 7.96 mmol) was added in portions and after all the LAH was added, the reaction was allowed to warm and stir at rt for 14. The reaction was quenched by the addition of ice, then water (10 mL) was added. The organics were extracted into ethyl acetate (3×15 mL), dried (MgSO4) and concentrated down to afford (2-chloro-3-dimethylamino-phenyl)-methanol which was taken onward without further purification.

reactant | 2-Chloro-3-dimethylamino-benzoic acid methyl ester | 3.98 mmol, 0.85 g | COC(C1=C(C(=CC=C1)N(C)C)Cl)=O | C10H12ClNO2
reactant | Lithium aluminum hydride | 7.96 mmol, 0.30 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | (2-chloro-3-dimethylamino-phenyl)-methanol | ClC1=C(C=CC=C1N(C)C)CO | C9H12ClNO
